US08871753B2
Step B: N-(3-Aminobenzyl)-3-nitrobenzenesulfonamide hydrochloride
tert-Butyl [3-({[(3-nitrophenyl)sulfonyl]amino}methyl)phenyl]carbamate (1.00 g, 2.45 mmol) was mixed with 4 M of hydrogen chloride in 1,4-dioxane (10 mL) and stirred at rt for 2 h. After concentration, the crude off-white powder product (0.97 g) was used in the next step. (Molecular Formula (MF)=C13H13N3O4S; LCMS calculated for C13H13N3O4S (M+H)+: m/z=308.0. 1H NMR (400 MHz, CD3OD): δ 8.55 (t, J=2.0 Hz, 1H), 8.44 (ddd, J=8.4, 2.4, 1.2 Hz, 1H), 8.20 (ddd, J=7.6, 2.4, 1.2 Hz, 1H), 7.81 (t, J=8.0 Hz, 1H), 7.40 (m, 2H), 7.36 (dd, J=7.6, 1.2 Hz, 1H), 7.23 (ddd, J=8.0, 2.4, 1.2, 1H), 4.21 (s, 2H).

reactant | tert-Butyl [3-({[(3-nitrophenyl)sulfonyl]amino}methyl)phenyl]carbamate | 2.45 mmol, 1.00 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C18H21N3O6S
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(3-Aminobenzyl)-3-nitrobenzenesulfonamide hydrochloride | Cl.NC=1C=C(CNS(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | InChI=1S/C13H13N3O4S.ClH/c14-11-4-1-3-10(7-11)9-15-21(19,20)13-6-2-5-12(8-13)16(17)18;/h1-8,15H,9,14H2;1H
